data/mechanisms/records/IMS9-EQ9.34c.json
{"mechanism_id": "IMS9-EQ9.34c", "species": [{"species_id": "sec_butyl_acetate_molecular_ion", "mapped_smiles": "[CH3:1][C:2](=[O+:3])[O:4][CH:5]([CH3:6])[CH:7]([1H:9])[CH2:8][1H:10]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "distonic_ion_charge_on_carbonyl_o", "mapped_smiles": "[CH3:1][C:2](=[O+:3][1H:9])[O:4][CH:5]([CH3:6])[CH:7][CH2:8][1H:10]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_ion_charge_on_ester_o", "mapped_smiles": "[CH3:1][C:2]([O:3][1H:9])=[O+:4][CH:5]([CH3:6])[CH:7][CH2:8][1H:10]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "protonated_acetic_acid_mz61", "mapped_smiles": "[CH3:1][C:2]([O:3][1H:9])=[O+:4][1H:10]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "allyl_radical_neutral", "mapped_smiles": "[CH2:8][CH:7]=[CH:5][CH3:6]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["sec_butyl_acetate_molecular_ion"]}, {"state_id": "state_rearranged", "species_ids": ["distonic_ion_charge_on_carbonyl_o"]}, {"state_id": "state_resonance", "species_ids": ["distonic_ion_charge_on_ester_o"]}, {"state_id": "state_mz61", "species_ids": ["protonated_acetic_acid_mz61", "allyl_radical_neutral"]}], "steps": [{"step_id": "step_rH_alkoxy_side", "from_state": "state_precursor", "to_state": "state_rearranged", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [7, 9]}, "target": {"type": "bond", "atom_maps": [3, 9]}, "electron_count": 1}, {"source": {"type": "radical_orbital", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [3, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 9]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_charge_localization", "from_state": "state_rearranged", "to_state": "state_resonance", "step_class": "resonance_delocalization", "semantics": "resonance_interconversion", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [2, 4]}, "electron_count": 2}], "reaction_smirks": null, "reversible": true}, {"step_id": "step_second_rH_double_hydrogen", "from_state": "state_resonance", "to_state": "state_mz61", "step_class": "double_hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [8, 10]}, "target": {"type": "bond", "atom_maps": [4, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [8, 10]}, "target": {"type": "atom", "atom_maps": [8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [4, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 7]}, "electron_count": 1}, {"source": {"type": "radical_orbital", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [5, 7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_alkoxy_side", "support_type": "textbook_proposed", "locator": {"page": 255, "equation": "9.34", "figure": null, "panel": null, "section": "9.4 Esters, 'Ethyl and higher esters' (arrow labelled 'rH')"}, "confidence": 0.85, "curator_note": "The arrow labelled 'rH'. Book draws 2 arc(s) on the molecular ion, both single-barbed fishhooks, measured at 11x: one has its tail at the odd-electron dot of the '+.' above the carbonyl oxygen and sweeps left with its head on the explicitly drawn hydrogen; the other has its tail on the C7-H9 bond and sweeps right with its head pointing up at the oxygen. Moves <1,2> are those arcs. Move <3> is NOT drawn -- the second C7-H9 electron staying on C7 as the new radical site -- and the page confirms it by printing a radical dot on exactly that carbon in the product. Six-membered McLafferty transition state H9-C7-C5-O4-C2-O3; no mass changes (the distonic product is still 116.0832). *** THE HYDROGEN COMES FROM THE ALCOHOL SIDE, NOT THE ACID SIDE *** -- the transferring H sits on the sec-butyl group's CH2, so the six-ring runs THROUGH THE ESTER OXYGEN. That is what makes this equation the substrate class of the book's own Gl.-4.45 rule pair, and the opposite of IMS9-EQ9.32 (a methyl ester, where the ring runs through the acyl chain instead). SUBSTRATE: sec-butyl acetate, CH3-C(=O)-O-CH(CH3)-CH2-CH3, drawn skeletally and labelled 'm/z 116'. Named on the same page by Figure 9.12 ('Mass spectrum of sec-butyl acetate') and by the prose that introduces the equation: 'The spectrum of sec-butyl acetate (Figure 9.12) illustrates the additional reactions that are possible with such esters. Rearrangement of one (Equation 4.33) and two (Equation 4.46) hydrogen atoms is highly characteristic (Equation 9.34).' Note what that sentence does: it names the two BOOK-COVER rule families this equation instantiates, one-H and two-H rearrangement. ATOM MAPS: 1 = the acetyl methyl, 2 = the acetyl (carbonyl) carbon, 3 = the carbonyl oxygen, 4 = the ester (saturated) oxygen, 5 = the methine carbon, 6 = its methyl, 7 = the CH2 of the ethyl group, 8 = the terminal methyl of the ethyl group, 9 = THE HYDROGEN THE PAGE DRAWS EXPLICITLY ON C7 (the one that migrates in the rH step), 10 = the hydrogen the page draws explicitly on C8 in the lower structure (the SECOND migrating hydrogen). Both are kept explicit as [1H:n] in every species."}, {"evidence_id": "evidence_step_resonance", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_charge_localization", "support_type": "textbook_proposed", "locator": {"page": 255, "equation": "9.34", "figure": null, "panel": null, "section": "9.4 Esters (the double-headed vertical arrow)"}, "confidence": 0.7, "curator_note": "The DOUBLE-HEADED VERTICAL ARROW. The page joins the rH product to a second, redrawn structure below it with a double-headed arrow, and the two differ in EXACTLY one thing, verified atom by atom at 5x: which oxygen carries the charge. Upper form (the rH product): the carbonyl oxygen carries the migrated hydrogen AND the '+', the ester oxygen is a neutral single-bonded O. Lower form: the hydrogen sits on a NEUTRAL hydroxyl, the C=O double bond has moved to the ESTER oxygen and the '+' is printed under it. Same atoms, same connectivity, one pi bond and one charge relocated -- so this is encoded as a RESONANCE/localization interconversion (semantics resonance_interconversion, reversible true, matching the drawn double head) with a single two-electron move carrying the C2=O3 pair into the C2-O4 bond. Book draws 0 arc(s) for it. This is the same charge-delocalization pair that IMS9-EQ9.32a's m/z 74 ion is printed as, and the same convention as IMS9-EQ9.26e: store both drawn forms, do not silently pick one."}, {"evidence_id": "evidence_step_second_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_second_rH_double_hydrogen", "support_type": "textbook_proposed", "locator": {"page": 255, "equation": "9.34", "figure": null, "panel": null, "section": "9.4 Esters (lower arrow labelled 'rH', to m/z 61)"}, "confidence": 0.8, "curator_note": "THE SECOND HYDROGEN TRANSFER -- this is the channel the prose means by 'Rearrangement of ... two (Equation 4.46) hydrogen atoms'. Book draws 2 arc(s), both on the lower (charge-on-ester-oxygen) form, traced by me at 5-6x: one has its tail on the C8-H10 bond (H10 is the SECOND explicitly drawn hydrogen, on the TERMINAL methyl of the ethyl group) and its head pointing down toward the charged ester oxygen; the other has its tail on the C5-O4 bond and its head pointing up at the C5-C7 bond, i.e. at the forming pi bond. Moves <1,4> are those two arcs; moves <2,3,5> are curator-supplied and are forced by the bookkeeping -- the O-H bond needs two electrons (one from the C8-H10 bond, one from the breaking C5-O4 bond) and so does the new pi bond (one from that same C5-O4 bond, one from the C7 radical), leaving the second C8-H10 electron on C8 as the new radical site. THE HYDROGEN DONOR IS THE TERMINAL METHYL, NOT THE RADICAL CARBON, and the products prove it: the page draws the neutral with a DASHED arc spanning two bonds and a radical dot in the middle of that span -- a DELOCALIZED ALLYL radical, .CH2-CH=CH-CH3 (C4H7., 55.0548) -- which can only arise if the hydrogen leaves the terminal carbon while the pi bond forms one bond further in. That is the 1,4-hydrogen shift the prose on the facing page describes. PRODUCT FORM, DISCLOSED: BOTH products are drawn with explicit delocalization dashes -- the allyl radical above, and m/z 61 drawn as HO...C(CH3)...OH with a '+' and a dashed arc spanning both C-O bonds, i.e. protonated acetic acid with the charge shared over the two oxygens. A mapped SMILES cannot hold either delocalization, so each is stored as one localization (allyl radical localized on C8; m/z 61 as CH3-C(OH)=O(+)H) and both deviations are recorded here, per the IMS9-EQ9.26e/9.28b convention. MEASUREMENTS (convention F): the page labels m/z 116, (m/z 60), m/z 56 and m/z 61, and every one matches the exact mass computed from the structure encoded here (116.0832, 60.0206, 56.0621, 61.0284 -- RDKit ExactMolWt, which already applies the formal charge). No percentage is printed in the equation, so no relative_intensity is stored; Figure 9.12 on the same page DOES carry abundances (and prints the circled '56' and boxed '61' marks plus 'M+. at m/z 116 has an abundance of 0.1%'), but it is a figure and not this scheme, so it is quoted rather than stored. THE PARENTHESES AROUND '(m/z 60)' ARE THE BOOK'S OWN JUDGEMENT and are recorded as such: 60 is the only one of the four labels printed in parentheses, and Figure 9.12 shows no peak at 60 while it does show 56 and 61 -- so the parentheses mark a channel that is drawn but not observed in this compound's spectrum."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 116.0832, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_116", "species_id": "sec_butyl_acetate_molecular_ion", "step_id": null, "observed_mz": 116.0832, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}, {"peak_id": "peak_61", "species_id": "protonated_acetic_acid_mz61", "step_id": "step_second_rH_double_hydrogen", "observed_mz": 61.0284, "relative_intensity": null, "hydrogen_shift": 2, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-12T00:00:00Z", "modified_at": "2026-08-12T00:00:00Z"}}
